US09388185B2
Step 2. 2-(3,5-Dimethoxyphenethyl)-6-(3-(4-methylpiperazin-1-yl)phenyl)-5H-pyrrolo[2,3-b]pyrazine
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 1-methyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine. LCMS calculated for C27H32N5O3 (M+H)+: m/z=458.3. Found 458.3.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 1-methyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine | CN1CCN(CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C17H27BN2O2
product | 2-(3,5-Dimethoxyphenethyl)-6-(3-(4-methylpiperazin-1-yl)phenyl)-5H-pyrrolo[2,3-b]pyrazine | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC(=CC=C3)N3CCN(CC3)C)C=C(C1)OC | C27H31N5O2
